US08445684B2
To a solution of 1-(tert-butoxycarbonyl)-4-(4-phenylbutyl)piperidine (202 mg, 636 μmol) in MeOH (1 mL) was added 2N anhydrous HCl/ether (1.5 mL, 3.0 mmol). The solution was stirred overnight and then evaporated. The residue was dissolved in deionized water. EtOAc was used to wash the aqueous layer before the pH was altered to approx. 9-10. The aqueous layer was extracted three times with CH2Cl2 and dried over Na2SO4. After evaporation, 4-(4-phenylbutyl)piperidine (83.4 mg, 60%) was obtained as a colorless oil. 1H NMR (CDCl3, 400 MHz) δ 7.28 (m, 2H), 7.18 (m, 3H), 3.05 (m, 2H), 2.57 (m, 4H), 2.41 (br, 1H), 1.61 (m, 3H), 1.25 (m, 8H).

reactant | 1-(tert-butoxycarbonyl)-4-(4-phenylbutyl)piperidine | 636 μmol, 202 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCC1=CC=CC=C1 | C20H31NO2
reactant | HCl ether | 3.0 mmol, 2N, 1.5 mL | Cl.CCOCC
solvent | MeOH | 1 mL | CO | CH4O
product | 4-(4-phenylbutyl)piperidine | 83.4 mg, 60% | C1(=CC=CC=C1)CCCCC1CCNCC1 | C15H23N
